US07521455B2
(1) Manufacture of 3-(1-hydroxyethyl)-2-benzofuran-1(3H)-one
A dry tetrahydrofuran solution (100 mL) of lithium diisopropyl amide (26.9 mmol) was cooled to −78 degree in a current of nitrogen, and a tetrahydrofuran solution (100 mL) of phthalide (3.0 g, 22.4 mmol) was dripped in. After stirring at −78° C. for 30 minutes, acetaldehyde (1.19 g, 26.9 mmol) was slowly added and stirred at −50° C. for 4 hours. After the temperature had risen to room temperature, distilled water was added and the mixture extracted with ethyl acetate. The organic phase was washed with distilled water and saturated brine, and dried with anhydrous sodium sulfate. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/6), and the target compound (1.96 g, 49%) was obtained as a yellow oily residue.

reactant | lithium diisopropyl amide | 26.9 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | phthalide | 22.4 mmol, 3.0 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | acetaldehyde | 26.9 mmol, 1.19 g | C(C)=O | C2H4O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-(1-hydroxyethyl)-2-benzofuran-1(3H)-one | 1.96 g, 49% | OC(C)C1OC(C2=C1C=CC=C2)=O | C10H10O3
